US07772221B2
Step K (1): Same procedure as Step D (3). (S)-2-(tert-Butoxycarbonyl-amino)hex-5-enoic acid (was used in place of (2S)-2-(2-methylhexanamido)pent-4-enoic acid. The procedure provided 2.06 g (98% yield) of (S)-2-(tert-butoxycarbonyl(methyl)amino)hex-5-enoic acid. LRMS (M−H)−=242.1; 1H NMR (500 MHz, CDCl3) δ ppm 1.45 (d, J=15.26 Hz, 9H) 1.86 (s, 1H) 1.99-2.19 (m, 3H) 2.82 (d, J=18.01 Hz, 3H) 4.36-4.72 (m, 1H) 4.96-5.12 (m, 2H) 5.71-5.87 (m, 1H).

reactant | (S)-2-(tert-Butoxycarbonyl-amino)hex-5-enoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCC=C | C11H19NO4
reactant | (2S)-2-(2-methylhexanamido)pent-4-enoic acid | CC(C(=O)N[C@H](C(=O)O)CC=C)CCCC | C12H21NO3
product | (S)-2-(tert-butoxycarbonyl(methyl)amino)hex-5-enoic acid | 2.06 g, 98% yield | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)CCC=C)C | C12H21NO4
